US08049009B2
Accordingly (R)-9-[2-(hydroxyl)propyl]adenine is condensed with Diethyl p-toluene sulfonyloxy methylphosphonate in presence of Magnesium tert-butoxide in a polar solvent preferably dimethylformamide at a temperature of 70° C. to 80° C. After the reaction completion the reaction mass is neutralized by adding an acid preferably acetic acid and the solvent is distilled off completely. The obtained crude is dissolved in a chlorinated hydrocarbon selected from Methylenedichloride, chloroform, and Ethylene dichloride and water is added. The reaction mixture is filtered to remove the salts and Methylenedichloride layer is separated. Methylenedichloride is distilled off completely to get (R)-9-[2-(phosphonomethoxy)propyl]adenine.

reactant | (R)-9-[2-(hydroxyl)propyl]adenine | O[C@@H](CN1C2=NC=NC(=C2N=C1)N)C | C8H11N5O
reactant | Diethyl p-toluene sulfonyloxy methylphosphonate | CCOP(=O)(COS(=O)(=O)C1=CC=C(C=C1)C)OCC | C12H19O6PS
reactant | Magnesium tert-butoxide | CC(C)([O-])C.[Mg+2].CC(C)([O-])C
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethylene dichloride | C(CCl)Cl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | Methylenedichloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (R)-9-[2-(phosphonomethoxy)propyl]adenine | P(=O)(O)(O)CO[C@@H](CN1C2=NC=NC(=C2N=C1)N)C | C9H14N5O4P
